US06534535B1
Part 2. To a chilled suspension of methyl 4-amino-3-nitrobenzoate (2.56 g, 11 mmol) and 4-dimethylaminopyridine (68 mg, 0.56 mmol) in CH2Cl2 (40 mL) and N,N-diisopropyl-ethylamine (1.9 mL, 11 mmol) was added a solution of di-tert-butyldicarbonate (2.2 g, 10 mmol) in CH2Cl2 (20 mL) dropwise over 20 min. The suspension was stirred at room temperature for 2 hours. Another solution of di-tert-butyldicarbonate (1.2 g, 5.5 mmol) in CH2Cl2 (10 mL) was added, and the resulting solution was stirred for another hour. The reaction was then concentrated, diluted with ethyl acetate, washed with 5% citric acid, water and brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography using 5% ethyl acetate in CH2Cl2 as eluent to yield methyl 4-[(tert-butoxy)carbonylamino]-3-nitrobenzoate (2.4 g, 74%). 1H NMR (CDCl3) δ: 1.54 (s, 9H); 3.93 (s, 3H); 8.19-8.22 (d, 1H); 8.66-8.68 (d, 1H); 8.86 (s, 1H); 9.87 (s, 1H).

reactant | methyl 4-amino-3-nitrobenzoate | 11 mmol, 2.56 g | NC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H8N2O4
reactant | N,N-diisopropyl-ethylamine | 11 mmol, 1.9 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyldicarbonate | 10 mmol, 2.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyldicarbonate | 5.5 mmol, 1.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 0.56 mmol, 68 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-[(tert-butoxy)carbonylamino]-3-nitrobenzoate | 2.4 g, 74% | C(C)(C)(C)OC(=O)NC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C13H16N2O6
